US07851473B2
(1) 2-(2,4-Difluorophenyl)-2-oxoethyl thiocyanate
A solution of 2-bromo-1-(2,4-difluorophenyl)ethanone (5.0 g, 21.3 mmol) and potassium thiocyanate (2.07 g, 21.3 mmol) in ethanol (50 ml) was stirred at 80° C. for 2 hours. After cooling to room temperature, water (70 ml) was poured to the reaction mixture. A crystal was collected by filtration and washed with 50% aqueous ethanol to give 3.39 g (74.7%) of the desired product as a solid.

reactant | 2-bromo-1-(2,4-difluorophenyl)ethanone | 21.3 mmol, 5.0 g | BrCC(=O)C1=C(C=C(C=C1)F)F | C8H5BrF2O
reactant | potassium thiocyanate | 21.3 mmol, 2.07 g | [S-]C#N.[K+]
reactant | water | 70 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2,4-Difluorophenyl)-2-oxoethyl thiocyanate | 3.39 g, 74.7% | FC1=C(C=CC(=C1)F)C(CSC#N)=O | C9H5F2NOS
